datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc2[nH]c(C[NH2:10])nc2c1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc2[nH]c(C[NH2+:10][H:20])nc2c1 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C(=O)[O-:10])C1.C[N+:21](C)(CCCCCCCCCNC(=O)/C=N/[O-])[H:20]>>C[C@@H]1CCC[C@H](C(=O)[O:10][H:20])C1.C[N:21](C)CCCCCCCCCNC(=O)/C=N/[O-] 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1>>CC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1 10=20;20,21=21",
"CCC(=O)C1(c2cccc(O)c2)CC[N:10](C)CC1.O=C1Cc2cc([O:21][H:20])ccc21>>CCC(=O)C1(c2cccc(O)c2)CC[N+:10](C)([H:20])CC1.O=C1Cc2cc([O-:21])ccc21 10=20;20,21=21",
"C[N:10]1CCN(C(c2ccccc2)c2ccc(Cl)cc2)CC1.O=[N+]([O-])c1ccc2[nH]c[n+:21]([H:20])c2c1>>C[N+:10]1([H:20])CCN(C(c2ccccc2)c2ccc(Cl)cc2)CC1.O=[N+]([O-])c1ccc2[nH]c[n:21]c2c1 10=20;20,21=21",
"COc1cc(C[NH2:10])c(C)cc1N.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1cc(C[NH2+:10][H:20])c(C)cc1N.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1cc(-c2cc(C)[n:10][nH]2)[nH]n1.N[NH+:21](CCOc1ccccc1)[H:20]>>Cc1cc(-c2cc(C)[n+:10]([H:20])[nH]2)[nH]n1.N[NH:21]CCOc1ccccc1 10=20;20,21=21",
"O=C(/C=C\SC1CCCCC1)[O-:10].O=C(C1CCCOC1)[O:21][H:20]>>O=C(/C=C\SC1CCCCC1)[O:10][H:20].O=C(C1CCCOC1)[O-:21] 10=20;20,21=21",
"CSC(C)=[N+:21](C)[H:20].Cc1cc(Br)ccc1[NH2:10]>>CSC(C)=[N:21]C.Cc1cc(Br)ccc1[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O-:10].C[C@H](CCC(=O)[O:21][H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C>>CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O:10][H:20].C[C@H](CCC(=O)[O-:21])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n+:21]2[H:20])cc1.C[NH2+]CCN(C)CC[NH:10]C>>CC(C)N/C=[NH+]/c1ccc(-c2cn(C)c[n:21]2)cc1.C[NH2+]CCN(C)CC[NH+:10](C)[H:20] 10=20;20,21=21",
"CC[N:10](CC)Cc1c([O-])c(Cl)cc(Cl)c1Cl.c1cc(-c2nn[nH]n2)cc(-c2nnn[n:21]2[H:20])c1>>CC[N+:10](CC)(Cc1c([O-])c(Cl)cc(Cl)c1Cl)[H:20].c1cc(-c2nn[nH]n2)cc(-c2nnn[n-:21]2)c1 10=20;20,21=21",
"CC[N:10](CC)Cc1cc(Cl)ccc1[O-].COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n:21]1[H:20]>>CC[N+:10](CC)(Cc1cc(Cl)ccc1[O-])[H:20].COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n-:21]1 10=20;20,21=21",
"C=C(C)C(=O)OCC[N:10](C)CCCC.O=C1C=C(c2ccc([O:21][H:20])cc2)Oc2ccccc21>>C=C(C)C(=O)OCC[N+:10](C)(CCCC)[H:20].O=C1C=C(c2ccc([O-:21])cc2)Oc2ccccc21 10=20;20,21=21",
"CC(C)(C)[NH:10]CC(O)COc1nsnc1N1CCOCC1.Nc1oc2c([n+:21]1[H:20])CCCC2>>CC(C)(C)[NH+:10](CC(O)COc1nsnc1N1CCOCC1)[H:20].Nc1oc2c([n:21]1)CCCC2 10=20;20,21=21",
"Cc1cc(-c2[nH]cc[n+:21]2[H:20])nn1C.c1ccc(C[NH2+]CC[NH2:10])cc1>>Cc1cc(-c2[nH]cc[n:21]2)nn1C.c1ccc(C[NH2+]CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH+:21]([H:20])C1C(=O)[O-].COc1cccc(C(c2ccccc2)=[NH:10])c1>>CC(C)C1CC(CC(=O)[O-])[NH:21]C1C(=O)[O-].COc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
"C[NH+]1C[C@@H](C(=O)[O:21][H:20])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.Cn1cc[n:10]c1CS>>C[NH+]1C[C@@H](C(=O)[O-:21])C=C2c3cccc4[nH]cc(c34)C[C@@H]21.Cn1cc[n+:10]([H:20])c1CS 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2ncccc2O)cc1.O=[N+]([O-])c1ccc(S(=O)(=O)[N:21](Cc2ccccc2)[H:20])cc1>>Nc1ccc(S(=O)(=O)[N:10](c2ncccc2O)[H:20])cc1.O=[N+]([O-])c1ccc(S(=O)(=O)[N-:21]Cc2ccccc2)cc1 10=20;20,21=21",
"CC(C)c1ccccc1[NH2+:21][H:20].CCCC(=O)OCC[N:10](C)C>>CC(C)c1ccccc1[NH2:21].CCCC(=O)OCC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC1[C@H]([NH3+])[C@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC1[C@H]([NH3+])[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(CO[NH2+:21][H:20])cc1.O=C(/C=C/c1c[nH]c[n:10]1)OCCCl>>Cc1ccc(CO[NH2:21])cc1.O=C(/C=C/c1c[nH]c[n+:10]1[H:20])OCCCl 10=20;20,21=21",
"NC1=[NH+]C(CC(=O)[O-:10])C(=O)N1CCCC([NH3+])C(=O)[O-].c1csc(-c2scc[n+:21]2[H:20])n1>>NC1=[NH+]C(CC(=O)[O:10][H:20])C(=O)N1CCCC([NH3+])C(=O)[O-].c1csc(-c2scc[n:21]2)n1 10=20;20,21=21",
"CCc1ccc[n+:21]([H:20])c1.C[C@H]1CC[C@H](C(=O)[O-:10])CC1>>CCc1ccc[n:21]c1.C[C@H]1CC[C@H](C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"CC1CC[NH:10]C(C)(C)C1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC1CC[NH+:10]([H:20])C(C)(C)C1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C=CC(CC(C)(C)C)c1ccc2ccc[n+:21]([H:20])c2c1O.[NH3+]C(c1cccc(O)c1[O-:10])P(=O)([O-])[O-]>>C=CC(CC(C)(C)C)c1ccc2ccc[n:21]c2c1O.[NH3+]C(c1cccc(O)c1[O:10][H:20])P(=O)([O-])[O-] 10=20;20,21=21",
"CC[Si](C)(C)C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[Si](C)(C)C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N:10](CC)CCCNc1c2ccccc2[nH+]c2ccccc12.COC(=O)c1ccc([O:21][H:20])cc1>>CC[N+:10](CC)(CCCNc1c2ccccc2[nH+]c2ccccc12)[H:20].COC(=O)c1ccc([O-:21])cc1 10=20;20,21=21",
"C[Si](C)(C)OC1C[N+:21](Cc2ccc(F)cc2)([H:20])C1.Nc1nc(N)[n:10]c2nc[nH]c12>>C[Si](C)(C)OC1C[N:21](Cc2ccc(F)cc2)C1.Nc1nc(N)[n+:10]([H:20])c2nc[nH]c12 10=20;20,21=21",
